US07491722B2
Ethyl 4-[ethoxy(oxo)acetyl]-5-methylisoxazole-3-carboxylate
To a well stirred solution of sodium methoxide (10.5 g, 0.15 mol) in 100 mL of dry ethanol, diethyl oxalate (21 mL, 0.15 mol) was added dropwise and the mixture was warmed to 45° C. Then dry acetone (45 mL, 0.60 mol) was added and after 30 min the final mixture was refluxed for 3 hours and stirred at room temperature overnight. Finally solvent was removed and 100 mL of fresh dry ethanol were added. The mixture was cooled to, 0° C. and a solution of ethyl chloro(hydroximino)acetate (27.2 g, 0.18 mol) in 25 mL of dry ethanol was added dropwise. Then it was stirred at 0° C. for 30 min and at room temperature for 3 days. Finally solvent was removed and the crude thus obtained was partitioned between ethyl acetate and water. It was dried and solvent removed to yield the desired product (90%) as an orange oil.

reactant | sodium methoxide | 0.15 mol, 10.5 g | C[O-].[Na+]
reactant | diethyl oxalate | 0.15 mol, 21 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | acetone | 0.60 mol, 45 mL | CC(=O)C | C3H6O
reactant | ethyl chloro(hydroximino)acetate | 0.18 mol, 27.2 g | ClC(C(=O)OCC)=NO | C4H6ClNO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Ethyl 4-[ethoxy(oxo)acetyl]-5-methylisoxazole-3-carboxylate | 90% | C(C)OC(C(=O)C=1C(=NOC1C)C(=O)OCC)=O | C11H13NO6
